US06211199B1
(1-(2-(trifluoromethoxy)ethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydrochloric acid salt
Combine (1-(2-(trifluoromethoxy)ethyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine and a solution of hydrochloric acid in dioxane (10 mL, 4 M). After 1 hour, evaporate in vacuo to give the title compound.

reactant | (1-(2-(trifluoromethoxy)ethyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | FC(OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C)(F)F | C20H27F3N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 4 M, 10 mL | O1CCOCC1 | C4H8O2
product | (1-(2-(trifluoromethoxy)ethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydrochloric acid salt | Cl.FC(OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2)(F)F | InChI=1S/C15H19F3N4O.ClH/c16-15(17,18)23-10-9-22-13-4-2-1-3-12(13)21-14(22)20-11-5-7-19-8-6-11;/h1-4,11,19H,5-10H2,(H,20,21);1H
